US20010053779A1
A mixture comprising 2-[1-(5-benzyloxycarbonyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)ethyl]-3-methyl-3H-benzoimidazole-5-carboxylic acid (0.75 g, 1.6 mmol), DMF (6.5 mL), methyl 2-(2-aminoethoxy)benzoate (0.38 g, 1.6 mmol) and HOBT (0.22 g, 1.6 mmol) was cooled under nitrogen to −40° C., treated with EDC (0.32 g, 1.6 mmol) and N,N-diisopropylethylamine (0.29 mL, 1.6 mmol) and 15 minutes later with additional N,N-diisopropylethylamine (0.29 mL ), allowed to warm to 20° C. and stirred for 16 hours. The mixture then was cooled to −40° C., treated with additional EDC (0.080 g) and N,N-diisopropylethylamine (0.050 mL), stirred for 15 minutes at −40° C. and 2 hours at 20° C. and concentrated by shortpath distillation. The residue was partitioned between chloroform and sodium bicarbonate and the organic layer was washed with sodium chloride, 0.5M potassium sulfate and sodium chloride, dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (CHCl3/MeOH/AcOH: 95/5/1) to provide benzyl 2-(1-{6-[2-(2-methoxycarbonylphenoxy)ethylcarbamoyl]-1-methyl-1H-benzoimidazol-2-yl}ethyl)-1,4,6,7-tetrahydroimidazo[4,5-c]pyridine-5-carboxylate (0.69 g, 66%) as a glassy brown foam; 1H-NMR (300 MHz, DMSO-d6) d ppm: 11.92 (s, 1H), 8.49 (t, 1H, J=5.0 Hz), 8.02 (s, 1H), 7.69 (d, 1H, J=9.9 Hz), 7.60 (m, 2H), 7.50 (t, 1H, J=8.3 Hz), 7.30 (m, 5H), 7.19 (d, 1H, J=9.9 Hz), 6.99 (t, 1H, J=8.3 Hz), 5.04 (s, 2H), 4.61 (q, 1H, J=8.8 Hz), 4.30 (br s, 2H), 4.20 (t, 2H, J=5.0 Hz), 3.74 (s, 3H), 3.68 (s, 3H), 3.63 (m, 4H), 2.55 (br s, 2H), 1.67 (d, 3H, J=8.8 Hz).

reactant | 2-[1-(5-benzyloxycarbonyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)ethyl]-3-methyl-3H-benzoimidazole-5-carboxylic acid | 1.6 mmol, 0.75 g | C(C1=CC=CC=C1)OC(=O)N1CC2=C(CC1)NC(=N2)C(C)C=2N(C1=C(N2)C=CC(=C1)C(=O)O)C | C25H25N5O4
reactant | methyl 2-(2-aminoethoxy)benzoate | 1.6 mmol, 0.38 g | NCCOC1=C(C(=O)OC)C=CC=C1 | C10H13NO3
reactant | HOBT | 1.6 mmol, 0.22 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 1.6 mmol, 0.29 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 0.29 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 0.050 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | EDC | 0.080 g
solvent | DMF | 6.5 mL | CN(C)C=O | C3H7NO
solvent | EDC | 1.6 mmol, 0.32 g
product | benzyl 2-(1-{6-[2-(2-methoxycarbonylphenoxy)ethylcarbamoyl]-1-methyl-1H-benzoimidazol-2-yl}ethyl)-1,4,6,7-tetrahydroimidazo[4,5-c]pyridine-5-carboxylate | 0.69 g, 66% | COC(=O)C1=C(OCCNC(=O)C=2C=CC3=C(N(C(=N3)C(C)C=3NC4=C(CN(CC4)C(=O)OCC4=CC=CC=C4)N3)C)C2)C=CC=C1 | C35H36N6O6
